US04096267
Step B: 2-(4-Fluorophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone
A stirred mixture of 2-(4-fluorophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone (1.2 g., 0.00354 mole) and pyridine hydrochloride (12 g.) is heated at 180° C. for one hour, then poured into water (500 ml.). The 2-(4-fluorophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone melts at 193°-200° C. and is used without further purification.

reactant | 2-(4-fluorophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.00354 mole, 1.2 g | FC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C17H13Cl2FO2
reactant | pyridine hydrochloride | 12 g | Cl.N1=CC=CC=C1
solvent | water | 500 ml | O | H2O
product | 2-(4-Fluorophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | FC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C16H11Cl2FO2
